US06936612B2
To a solution of 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one (237 mg, 0.48 mmol) in chloroform (5 ml) was added hydrogen chloride (2 M ethereal solution, 2.0 ml, 4.0 mmol). The reaction mixture was stirred at RT for 12 h. The solvents were evaporated and the residue was dissolved in ethanol. The ethanol was evaporated to give 6-acetyl-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one (239 mg, 0.52 mmol). MS (APCI+) 462 (M+1, 100); 1H NMR δ(400 MHz, DMSOd6) 10.83 (m, 2H), 9.00 (s, 1H), 8.1 (m, 1H), 7.88-7.82 (m, 2H), 5.89-5.80 (m, 1H), 3.88-3.85 (m, 2H), 3.54-3.51 (m, 2H), 3.23-3.11 (m, 4H), 2.83-2.82 (m, 3H), 2.43 (s, 3H), 2.34 (s, 3H), 2.23-2.11 (m, 2H), 1.93 (br, 2H), 1.81-1.77 (m, 2H), 1.60-1.59 (m, 2H); Anal. Calc'd for C25H31N7O2, 2.70 HCl, 1.05 C2H5OH: C, 53.50; H, 6.63; N, 16.12. Found: C, 53.45; H, 6.47; N, 15.85.

reactant | 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 0.48 mmol, 237 mg | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C)C)C(=C)OCC)=O | C27H35N7O2
reactant | hydrogen chloride | 4.0 mmol, 2 M, 2.0 ml | Cl | ClH
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-acetyl-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 0.52 mmol, 239 mg | C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C)N(C1=O)C1CCCC1)C | C25H31N7O2
